* D:\home\brosnan\books\circuits\Circuits-LTSpice\Others\AM-modulator.asc
* Generated by LTspice 26.0.1 for Windows.
V1 Vsignal 0 SINE(0 1 10k 0.5m)
V2 Vbias 0 -2
J1 N001 N003 0 2N3819
X§U1 N001 N002 OUT opamp Aol=100K GBW=10Meg ;§pnba invin)noninvin)out
C1 N003 Vsignal 1µ
R1 N003 Vbias 10k
R2 OUT N001 1k
V3 N002 0 SINE(0 100m 200k)
V4 N006 0 SINE(0 500m 2k)
X§U2 N005 N004 Vcc Vee Audio LT1007 ;§pnba In+)In-)V+)V-)OUT
R3 N004 0 10k
R4 Audio N004 20k
R5 N005 N006 10k
V5 N007 0 SINE(0 200m 1k)
R6 N005 N007 10k
V6 N008 0 SINE(0 200m 5k)
R7 N005 N008 10k
V7 Vcc 0 15
V8 Vee 0 -15
.model NJF NJF
.model PJF PJF
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.jft
.tran 1m
.lib opamp.sub
* Carrier wave 200kHz
* Opamp gain depends on JFET resistance which is modulated by the modulating signal
* Vsignal is the modulating 10kHz signal
* Modulated signal spectrum (OUT) is Fc-Fm, Fc+Fm.\nFm max frequency modulating signal\nFc carrier wave frequency\nPeaks can be seen in the FT\nUse gaussian window function
* Audio signal. Example 1k + 2k + 5k Hz. FFT of signal \ncontains these frequencies. Output should contain this too.
* Audio signal to be tested in the place of Vsignal. \nUsing a 200kHz carrier, the spectrum is at 200-5 and 200+5 kHz
* AM modulator
* Library below included based on ModelFile attribute of instance X§U2 (C:\users\brosnan\AppData\Local\LTspice\lib\sym\OpAmps\LT1007.asy)
.lib LTC.lib
.backanno
.end
